US07553852B2
(S)-2-(6-chloro-4-oxo-4H-quinazoline-3-yl)-butyric acid-tert-butyl ester
2-(2-amino-5-chloro-benzoylamino)-butyric acid-tert-butyl ester (2.82 g) was dissolved in trimethylorthoformate (50 ml). Acetic acid (10 ml) was added, and reaction mixture refluxed for 48 hours. After this time, the solvents were removed and the residue partitioned between ethyl acetate and saturated sodium bicarbonate solution. The aqueous layer was further extracted with ethyl acetate and the combined organic extracts washed with brine, dried (MgSO4) and concentrated under reduced pressure to give a yellow oil. This was purified by flash chromatography (20% EtOAc: Petroleum) to give the sub-title compound as an oil (1.23 g, 42% yield). 1H NMR (400 MHz, CDCl3) δ 8.25 (1H, s), 8.05 (1H, s), 7.7 (2H, m), 5.3 (1H, m), 2.3 (1H, m), 2.0 (1H, m), 1.5 (9H, s), 1.0 (3H, t) ppm.

reactant | 2-(2-amino-5-chloro-benzoylamino)-butyric acid-tert-butyl ester | 2.82 g | C(C)(C)(C)OC(C(CC)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C15H21ClN2O3
reactant | Acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | trimethylorthoformate | 50 ml | COC(OC)OC | C4H10O3
product | (S)-2-(6-chloro-4-oxo-4H-quinazoline-3-yl)-butyric acid-tert-butyl ester | 1.23 g, 42% yield | C(C)(C)(C)OC([C@H](CC)N1C=NC2=CC=C(C=C2C1=O)Cl)=O | C16H19ClN2O3
